US04341780
Trimethyl-sulphoxonium iodide (0.7 g) was reacted with 50% sodium hydride (0.15 g) in dimethylformamide (30 ml) under stirring at room temperature for 1 hour, then a solution of 2-trans-(2-phenyl-ethenyl)-3-ethyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid methyl ester, m.p. 214°-216° C., (0.82 g) in dimethyl-formamide (20 ml) was added. The mixture was allowed to react under stirring at room temperature for 3 hours, then it was diluted with ice water and filtered. Crystallization from acetone gave 2-trans-(2-phenyl-ethenyl)-3-ethyl-6,7-methylen-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid, methyl ester, m.p. 194°-195° C. (0.58 g), which was reacted with 1% KOH in 95% ethanol solution (11 ml) at reflux temperature for 15 minutes. After cooling the reaction mixture was acidified with acetic acid, concentrated in vacuo and diluted with ice water: the precipitate was filtered and washed with water until neutral. Crystallization from acetone gave 0.34 g of 2-trans-(2-phenyl-ethenyl)-3-ethyl-6,7-methylen-4-oxo-4H-pyrido[1,2]pyrimidine-7-carboxylic acid, m.p. 215°-216° C., NMR (CF3COOD) δ: 1.22(m) and 2.93(m)(6,7-CH2 protons), 1.36(t) (CH2CH3), 2.93(m)(CH2 --CH3), 5.51(d.d)(C-6proton), 7.01(d) (C-9 proton), 7.31(d)(Hβ vinyl proton), 7.63(b.s)(phenyl protons), 7.76(d)(Hα vinyl proton), 8.26(d)(C-8 proton). By proceeding analogously the following compounds were prepared:

reactant | Trimethyl-sulphoxonium iodide | 0.7 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 0.15 g | [H-].[Na+]
reactant | 2-trans-(2-phenyl-ethenyl)-3-ethyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid methyl ester | COC(=O)C=1C=CC=2N(C(C(=C(N2)\C=C\C2=CC=CC=C2)CC)=O)C1 | C20H18N2O3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethyl-formamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-trans-(2-phenyl-ethenyl)-3-ethyl-6,7-methylen-4-oxo-4H-pyrido[1,2-a]pyrimidine-7-carboxylic acid, methyl ester | C1(=CC=CC=C1)/C=C/C=1N=C2N(C(C1CC)=O)C1C(C=C2)(C(=O)OC)C1 | C21H20N2O3
